US09227923B2
The crude product of 4-cyano-3-methylbenzoic acid (1.0 g) was suspended in dichloromethane. To the mixture, oxalyl chloride (1.2 g) and an catalytic amount of N,N-dimethylformamide (2 to 3 drops) were added under ice cooling. After adjusting to room temperature, the reaction solution was stirred for three hours. The solvent was distilled off under reduced pressure to obtain 4-cyano-3-methylbenzoyl chloride as a crude product (1.0 g).

reactant | 4-cyano-3-methylbenzoic acid | 1.0 g | C(#N)C1=C(C=C(C(=O)O)C=C1)C | C9H7NO2
reactant | oxalyl chloride | 1.2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 2 to 3 drops | CN(C=O)C | C3H7NO
product | 4-cyano-3-methylbenzoyl chloride | C(#N)C1=C(C=C(C(=O)Cl)C=C1)C | C9H6ClNO
